US07612114B2
Synthesized from 1-[2-(6-bromopyridin-3-yl)ethyl]azepane (400 mg) according to an analogous synthetic method to Preparation Example 51, to the total amount of lithium 5-(2-azepan-1-ylethyl)pyridine-2-carboxylate crude product was added thionyl chloride (8 ml), the solution was stirred for 30 minutes at 90° C., then the reaction solution was concentrated in vacuo to provide 5-(2-azepan-1-ylethyl)pyridine-2-carbonyl chloride hydrochloride (640 mg). Synthesized from this compound (320 mg) and pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (40 mg) according to an analogous synthetic method to Example 152, the title compound (7 mg) was obtained.

reactant | 1-[2-(6-bromopyridin-3-yl)ethyl]azepane | 400 mg | BrC1=CC=C(C=N1)CCN1CCCCCC1 | C13H19BrN2
reactant | lithium 5-(2-azepan-1-ylethyl)pyridine-2-carboxylate | N1(CCCCCC1)CCC=1C=CC(=NC1)C(=O)[O-].[Li+]
reactant | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-(2-azepan-1-ylethyl)pyridine-2-carbonyl chloride hydrochloride | 640 mg | Cl.N1(CCCCCC1)CCC=1C=CC(=NC1)C(=O)Cl | InChI=1S/C14H19ClN2O.ClH/c15-14(18)13-6-5-12(11-16-13)7-10-17-8-3-1-2-4-9-17;/h5-6,11H,1-4,7-10H2;1H
